US07141596B2
Step 1. N-(2-aminophenyl)-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]propanamide
(2S)-3-[3-Bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]propanoic acid (20.7 mg, 0.040 mmol) in DMF (1 mL) was treated with benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (21.2 mg, 0.0480 mmol). After stirring 5 minutes at rt a solution of N,N-diisopropylethylamine (34.8 μL, 0.200 mmol) and 1,2-benzenediamine (6.49 mg, 0.0600 mmol) in DMF (1.0 mL) was added. The solution stirred at rt for 2 h. Purification by preparative LCMS afforded product as a white solid (18.1 mg, 75%).

reactant | (2S)-3-[3-Bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]propanoic acid | 0.040 mmol, 20.7 mg | BrC=1C=C(C=CC1C1CC(NS1(=O)=O)=O)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=CC=C1 | C18H17BrN2O7S2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.0480 mmol, 21.2 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.200 mmol, 34.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,2-benzenediamine | 0.0600 mmol, 6.49 mg | C=1(C(=CC=CC1)N)N | C6H8N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(2-aminophenyl)-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]propanamide | 18.1 mg, 75% | NC1=C(C=CC=C1)NC(C(CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br)NS(=O)(=O)C1=CC=CC=C1)=O | C24H23BrN4O6S2
